US07560546B2
Step B: 3-(Morpholin-4-ylsulfonyl)-7-nitro-1H-indole-2-carboxamide
Following the procedures described in Steps B and C of Example 2 and E of Example 1, replacing in Step B of Example 2 ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 3-(chlorosulfonyl)-7-nitro-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and replacing in Step E of Example 1 ethyl 5-chloro-3-(morpholin-4-ylsulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 3-(morpholin-4-ylsulfonyl)-7-nitro-1H-indole-2-carboxylate, the title compound was obtained. HRMS (ES) exact mass calculated for C13H15N4O6S (M+H+): 355.0707. Found 355.0713.

reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | ethyl 3-(chlorosulfonyl)-7-nitro-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClS(=O)(=O)C1=C(N(C2=C(C=CC=C12)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1)C(=O)OCC | C17H13ClN2O8S2
reactant | ethyl 5-chloro-3-(morpholin-4-ylsulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)N1CCOCC1 | C21H21ClN2O7S2
reactant | ethyl 3-(morpholin-4-ylsulfonyl)-7-nitro-1H-indole-2-carboxylate | N1(CCOCC1)S(=O)(=O)C1=C(NC2=C(C=CC=C12)[N+](=O)[O-])C(=O)OCC | C15H17N3O7S
product | 3-(Morpholin-4-ylsulfonyl)-7-nitro-1H-indole-2-carboxamide | N1(CCOCC1)S(=O)(=O)C1=C(NC2=C(C=CC=C12)[N+](=O)[O-])C(=O)N | C13H14N4O6S
